US05374625
Sodium methoxide (36 mg, 0.67 mmole) was added to a solution of 2-amino-9-[(1R,2R,4S,5S)-4,5-bis(benzoyloxymethyl)-2-hydroxycyclohexyl]-6-(2-methoxyethoxy)-purine (190 mg, 0.33 mmole) in anhydrous methanol (3 ml) under cooling with ice. After stirring the mixture at room temperature for 5 hours, the reaction mixture was neutralized with dilute hydrochloric acid and the solvent was distilled off under reduced pressure. Then, ethyl ether and water were added to the residue, the ethyl ether layer was removed, and water was distilled off. Then, the residue was heated at 100° C. for one hour together with 2N aqueous hydrochloric acid (7 ml). The reaction mixture was neutralized with 1N solution of sodium hydroxide and then purified by Diaion HP-20 column chromatography (methanol concentration gradient) to obtain 9-[(1R,2R,4S,5S)-4,5-bis(hydroxymethyl)-2-hydroxycyclohexyl]-guanine (70 mg, Yield 69%).

reactant | Sodium methoxide | 0.67 mmole, 36 mg | C[O-].[Na+]
reactant | 2-amino-9-[(1R,2R,4S,5S)-4,5-bis(benzoyloxymethyl)-2-hydroxycyclohexyl]-6-(2-methoxyethoxy)-purine | 0.33 mmole, 190 mg | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H](C[C@@H]([C@H](C1)COC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)O)OCCOC | C30H33N5O7
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | 9-[(1R,2R,4S,5S)-4,5-bis(hydroxymethyl)-2-hydroxycyclohexyl]-guanine | 70 mg, Yield 69% | OC[C@H]1C[C@H]([C@@H](C[C@@H]1CO)N1C=2N=C(NC(C2N=C1)=O)N)O | C13H19N5O4
